US08614327B2
A mixture of 2-bromo-5-methyl-aniline (1.0 g, 5.34 mmol) and diethyl 2-(ethoxymethylene)propanedioate (1.23 g, 5.90 mmol) was heated at 100° C. for 4 h. The mixture was cooled to room temperature and concentrated under reduced pressure. The residue was then purified via silica gel column chromatography using 1 to 60% EtOAc in hexanes to yield diethyl 2-[[(2-bromo-5-methyl-phenyl)amino]methylene]propanedioate (1.6 g, 84%). 1H NMR (300 MHz, CDCl3) δ 11.19 (d, J=13.2 Hz, 1H), 8.48 (d, J=13.2 Hz, 1H), 7.43 (d, J=8.1 Hz, 1H), 7.08 (s, 1H), 6.81 (d, J=8.1 Hz, 1H), 4.37-4.23 (m, 4H), 2.35 (s, 3H), 1.42-1.25 (m, 6H).

reactant | 2-bromo-5-methyl-aniline | 5.34 mmol, 1.0 g | BrC1=C(N)C=C(C=C1)C | C7H8BrN
reactant | diethyl 2-(ethoxymethylene)propanedioate | 5.90 mmol, 1.23 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl 2-[[(2-bromo-5-methyl-phenyl)amino]methylene]propanedioate | 1.6 g, 84% | BrC1=C(C=C(C=C1)C)NC=C(C(=O)OCC)C(=O)OCC | C15H18BrNO4
